US05034409
A mixture of methyl 3,4-diphenyl-1H-pyrrole-1-nonanoate (2.50g, 6.4mmol), 5N sodium hydroxide solution (3.86mL, 19mmol) and methanol (50mL) was heated on a steam bath. After 30 minutes, the solvent was evaporated, the residue diluted with 1N HC1 solution and extracted with CH2Cl2. The combined extracts were dried over sodium sulfate, concentrated in vacuo and the residual oil chromatographed on a column of silica gel. Elution with a mixture of diethyl ether and hexanes (3:2) gave 3,4-diphenyl-1H-pyrrole-1-nonanoic acid (2.20g, 91%) as an oil.

reactant | methyl 3,4-diphenyl-1H-pyrrole-1-nonanoate | 6.4mmol, 2.50g | C1(=CC=CC=C1)C1=CN(C=C1C1=CC=CC=C1)CCCCCCCCC(=O)OC | C26H31NO2
reactant | sodium hydroxide | 19mmol, 5N, 3.86mL | [OH-].[Na+]
solvent | methanol | 50mL | CO | CH4O
product | 3,4-diphenyl-1H-pyrrole-1-nonanoic acid | 2.20g, 91% | C1(=CC=CC=C1)C1=CN(C=C1C1=CC=CC=C1)CCCCCCCCC(=O)O | C25H29NO2
